* source LAB4
E_U1         N01138 0 VALUE {LIMIT(V(0,N00137)*1E6,-40V,+40V)}
R_R1         N00137 N01138  10k TC=0,0 
V_V1         N00132 0 1Vdc
R_R4         N00137 N00132  1k TC=0,0 
V_V2         N00931 0 5Vdc
R_R5         N00137 N00931  2k TC=0,0 
